US09447121B2
Step 2. (S)-di-tert-butyl 2-(3-((S)-1-(tert-butoxy)-1-oxo-6-(11-(piperazin-1-yl)undecanamido)hexan-2-yl)ureido)pentanedioate
To a solution of (S)-di-tert-butyl 2-(3-((S)-6-(11-(4-((benzyloxy)carbonyl)piperazin-1-yl)undecanamido)-1-(tert-butoxy)-1-oxohexan-2-yl)ureido)pentanedioate (1.50 g, 1.72 mmol) and ammonium formate (1.0 g) in ethanol (60 mL) was added palladium on carbon (300 mg). The reaction mixture was stirred at room temperature for overnight and filtered through a pad of celite followed by washing of the celite pad using ethyl acetate (EtOAc). The solvent was removed under reduced pressure and the residue dissolved in dichloromethane (DCM). The DCM solution was washed using saturated sodium bicarbonate and then partitioned to separate the organic layer from the aqueous layer. Concentration of the organic layer under reduced pressure afforded the titled product as a yellowish solid (1.2345 g, 97% yield). MS (ESI), 740.4 (M+H)+.

reactant | (S)-di-tert-butyl 2-(3-((S)-6-(11-(4-((benzyloxy)carbonyl)piperazin-1-yl)undecanamido)-1-(tert-butoxy)-1-oxohexan-2-yl)ureido)pentanedioate | 1.72 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CCCCCCCCCCC(=O)NCCCC[C@@H](C(=O)OC(C)(C)C)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O | C47H79N5O10
reactant | ammonium formate | 1.0 g | C(=O)[O-].[NH4+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | (S)-di-tert-butyl 2-(3-((S)-1-(tert-butoxy)-1-oxo-6-(11-(piperazin-1-yl)undecanamido)hexan-2-yl)ureido)pentanedioate | 1.2345 g, 97% yield | C(C)(C)(C)OC([C@H](CCCCNC(CCCCCCCCCCN1CCNCC1)=O)NC(N[C@H](C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)=O)=O | C39H73N5O8
